US04665181
Step (e), Production of Trans-6-[2-(4-methoxyphenyl)ethenyl]-1(2H)-phthalazinone
Nine and one-half ml of hydrazine was added to a solution of 8.0 gm 5-(p-methoxyphenyl)ethenyl-3-hydroxyphthalide in 100 ml ethanol and the mixture was refluxed with stirring for 5 hours. The reaction mixture was cooled and the product filtered off and washed with isopropanol and dried. Wt=4.0 gm, m.p.=280°-289°.

reactant | hydrazine | NN | H4N2
reactant | 5-(p-methoxyphenyl)ethenyl-3-hydroxyphthalide | 8.0 gm | COC1=CC=C(C=C1)C=CC=1C=C2C(OC(=O)C2=CC1)O | C17H14O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Trans-6-[2-(4-methoxyphenyl)ethenyl]-1(2H)-phthalazinone | COC1=CC=C(C=C1)/C=C/C=1C=C2C=NNC(C2=CC1)=O | C17H14N2O2
